US04031226
A mixture of 15 parts of 1-(4-fluoro-2-nitrobenzoyl)-aziridine, 11 parts of 4-(4-chlorophenyl)-4-piperidinol, 55.8 parts of benzene and 8.8 parts of methanol is stirred and refluxed for 1.50 hours. After stirring is continued overnight at room temperature, the reaction mixture is evaporated. The residue is dissolved in trichloromethane. The solution is washed with water and 8 parts of methanol are added. The whole is stirred for 10 minutes with silica gel. The latter is filtered off and the filtrate is evaporated. The residue is triturated with 2,2'-oxybis propane. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 9.5 parts of N-{2-[4-(4-chlorophenyl)-4- hydroxy-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide; mp. 144.3° C.

reactant | 1-(4-fluoro-2-nitrobenzoyl)-aziridine | FC1=CC(=C(C(=O)N2CC2)C=C1)[N+](=O)[O-] | C9H7FN2O3
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | N-{2-[4-(4-chlorophenyl)-4- hydroxy-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O)O | C20H21ClFN3O4
